US06491989B1
6,7-Difluoro-5-(2-fluorodecyloxy)-2-(6-hexyloxypyridin-3-yl)- 1,2,3,4-tetrahydronaphthalene
From 6,7-difluoro-2-(6-hexyloxypyridin-3-yl)-5-hydroxy-1,2,3,4-tetrahydronaphthalene and 2-(S)-fluorodecan-1-ol by means of the Mitsunobu reaction.

reactant | 6,7-difluoro-2-(6-hexyloxypyridin-3-yl)-5-hydroxy-1,2,3,4-tetrahydronaphthalene | FC=1C(=C2CCC(CC2=CC1F)C=1C=NC(=CC1)OCCCCCC)O | C21H25F2NO2
reactant | 2-(S)-fluorodecan-1-ol | F[C@H](CO)CCCCCCCC | C10H21FO
product | 6,7-Difluoro-5-(2-fluorodecyloxy)-2-(6-hexyloxypyridin-3-yl)- 1,2,3,4-tetrahydronaphthalene | FC=1C(=C2CCC(CC2=CC1F)C=1C=NC(=CC1)OCCCCCC)OCC(CCCCCCCC)F | C31H44F3NO2
